US05846703
A. Preparation of Nitroprimidone
Primidone, 1.60 g, was dissolved with stirring in 8 ml concentrated sulfuric acid and cooled in ice. A cold solution of 485 μl concentrated nitric acid in 2 ml concentrated sulfuric acid was added over a period of 10 minutes. After 2 hours at 0° C. the reaction mixture was poured into ice water neutralized with cold sodium hydroxide. The precipitate was collected, washed with water and dried in vacuo affording 1.79 g white solid.

reactant | Primidone | CCC1(C(=O)NCNC1=O)C=2C=CC=CC2 | C12H14N2O2
reactant | nitric acid | 485 μl | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
product | Nitroprimidone | 1.79 g | [N+](=O)([O-])C1=NC(NC=C1)=O | C4H3N3O3
